US07655803B2
In a 250 ml Schlenk flask, 58.75 g (0.381 moles) of diethyl sulfate was slowly added dropwise to 31.28 g (0.381 moles) of methylimidazole with ice cooling and under a blanket gas. Stirring of the mixture was continued at room temperature over night. After the addition of 62.72 g (0.482 moles; 1.26 equ.) of 1-octanol and 0.67 g of Lewatite K-2629 washed with acetone and dried under high vacuum (acidic ion-exchanger), the mixture was allowed to react over night at 140° C., and at the same time, the by-product ethanol formed was removed from the reaction mixture by sparging with an argon stream. The remaining volatile fractions were subsequently removed under high vacuum at 80° C. The product, 1-ethyl-3-methylimidazolium 1-octyl sulfate, was obtained as a medium-viscous, slightly yellow liquid in quantitative yield.

reactant | diethyl sulfate | 0.381 moles, 58.75 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | methylimidazole | 0.381 moles, 31.28 g | CC=1NC=CN1 | C4H6N2
reactant | 1-octanol | 0.482 moles, 62.72 g | C(CCCCCCC)O | C8H18O
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-3-methylimidazolium 1-octyl sulfate | quantitative yield | C(CCCCCCC)OS(=O)(=O)[O-].C(C)[N+]1=CN(C=C1)C | InChI=1S/C8H18O4S.C6H11N2/c1-2-3-4-5-6-7-8-12-13(9,10)11;1-3-8-5-4-7(2)6-8/h2-8H2,1H3,(H,9,10,11);4-6H,3H2,1-2H3/q;+1/p-1
